US04497805
Methyl 2β,3α-dihydroxy-11α-(2,2,2-trichloroethoxycarbonylamino)-5α-androstane-17β-carboxylate
Methyl 2α,3α-epoxy-11α-(2,2,2-trichloroethoxycarbonylamino)-5α-androstane-17β-carboxylate (522 mg) in dioxan (5 ml) was treated with 2N sulphuric acid (1 ml) and stirred at ambient temperature for 18 h. The mixture was diluted with water (50 ml) and extracted with ethyl acetate (3×). The extract was washed with water, dried and evaporated to give a foam. This was purified by preparative t.l.c. in ethyl acetate/petrol (1:1) and crystallised from ether to give the title compound (217 mg) m.p. 228°-230°, [α]D +27.6.

reactant | Methyl 2α,3α-epoxy-11α-(2,2,2-trichloroethoxycarbonylamino)-5α-androstane-17β-carboxylate | 522 mg | O1[C@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)C[C@H]([C@@H]3[C@]1(C2)C)NC(=O)OCC(Cl)(Cl)Cl)C(=O)OC | C24H34Cl3NO5
reactant | sulphuric acid | 2N, 1 ml | S(O)(O)(=O)=O | H2O4S
solvent | dioxan | 5 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
product | Methyl 2β,3α-dihydroxy-11α-(2,2,2-trichloroethoxycarbonylamino)-5α-androstane-17β-carboxylate | 217 mg | O[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)C[C@H]([C@@H]3[C@]2(C1)C)NC(=O)OCC(Cl)(Cl)Cl)C(=O)OC)O | C24H36Cl3NO6
